US04486434
A cooled (0° C.) mixture of 5-amino-2-[4-aminobutyl]-3-methylpyridine (0.86 g) and fluoroboric acid (5 ml) in ethanol (30 ml) was reacted with amyl nitrite (3 ml) over 15 minutes and then stirred for a further 15 minutes, diluted with diethyl ether at 0° C. to give 5-diazo-2-(4-aminobutyl)-3-methylpyridine fluoroborate (1.88 g) m.p. 80°-120° C. (dec).

reactant | 5-amino-2-[4-aminobutyl]-3-methylpyridine | 0.86 g | NC=1C=C(C(=NC1)CCCCN)C | C10H17N3
reactant | fluoroboric acid | 5 ml | F[B-](F)(F)F.[H+]
reactant | amyl nitrite | 3 ml | N(=O)OCCCCC | C5H11NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-diazo-2-(4-aminobutyl)-3-methylpyridine fluoroborate | 1.88 g | F[B-](F)(F)F.[N+](=[N-])=C1CC(=C(N=C1)CCCCN)C | InChI=1S/C10H16N4.BF4/c1-8-6-9(14-12)7-13-10(8)4-2-3-5-11;2-1(3,4)5/h7H,2-6,11H2,1H3;/q;-1
